US05569772
A. Preparation of t-Butyl 4-Methoxybenzyl Sulfide
A mixture of 4-methoxybenzyl alcohol (10.13 g) and zinc iodide (11.7 g) in 1,2-dichloroethane (120 mL) was treated with 2-methyl-2-propanethiol (9.92 mL) in one portion. The resulting mixture was stirred at room temperature. After about 18 hours, the reaction was diluted with water (100 mL) and methylene chloride (100 mL). The organic phase was removed, dried over magnesium sulfate, filtered, and concentrated in vacuo to give 14.4 g of an oil.

reactant | 4-methoxybenzyl alcohol | 10.13 g | COC1=CC=C(CO)C=C1 | C8H10O2
reactant | 2-methyl-2-propanethiol | 9.92 mL | CC(C)(C)S | C4H10S
solvent | 1,2-dichloroethane | 120 mL | ClCCCl | C2H4Cl2
solvent | water | 100 mL | O | H2O
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | zinc iodide | 11.7 g | [I-].[Zn+2].[I-]
product | t-Butyl 4-Methoxybenzyl Sulfide | 14.4 g | COC1=CC=C(CSC(C)(C)C)C=C1 | C12H18OS
